US06127379
d) Methylthiochroman-8-carboxylate
Methyl-2H-thiochromene-8-carboxylate (1.83 g, 8.88 mmol) was dissolved in ethanol (100 ml) and treated with 10% PdC (1.5 g). The mixture was then hydrogenated at atmospheric pressure at room temperature. After 19 h the reaction mixture was filtered through celite and evaporated under reduced pressure to give a colourless oil which was dried in vacuo to give the title compound (1.25 g, 68%)

reactant | Methyl-2H-thiochromene-8-carboxylate | 8.88 mmol, 1.83 g | COC(=O)C=1C=CC=C2C=CCSC12 | C11H10O2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Methylthiochroman-8-carboxylate | 1.25 g, 68% | COC(=O)C=1C=CC=C2CCCSC12 | C11H12O2S
